US04497801
Boc-Lys(Cl-Z)-OH (4.15 g), H-Arg(NO2)OBzl.2TsOH (6.54 g) and 1-hydroxybenzotriazole (1.35 g) were dissolved in methylene chloride (70 ml) and then triethylamine (2.02 g) was added, followed by addition of cyclohexylcarbodiimide (2.06 g) under ice-cooling. The temperature was raised to room temperature. The mixture was stirred for 4 hours and then filtered. The filtrate was concentrated and extracted with ethyl acetate. The extract was washed with water, dilute sodium hydrogen carbonate, water and sodium chloride in that order, dried over magnesium sulfate, and concentrated to give Boc-Lys(Cl-Z)-Arg(NO2)-OBzl (7.29 g) as an amorphous solid.

reactant | Boc-Lys(Cl-Z)-OH | 4.15 g | N([C@@H](CCCCNC(=O)OCC1=C(Cl)C=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H27ClN2O6
reactant | H-Arg(NO2)OBzl | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC1=CC=CC=C1 | C13H19N5O4
reactant | 1-hydroxybenzotriazole | 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=N | C7H12N2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
product | Boc-Lys(Cl-Z)-Arg(NO2)-OBzl | 7.29 g | N([C@@H](CCCCNC(=O)OCC1=C(Cl)C=CC=C1)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C32H44ClN7O9
